US04439425
34 ml of 0.5 N-sodium hydroxide is added to 3.54 g of Z-Ser(But)Ser(But)-Asn-Ala-OMe in 34 ml of methanol. After 3 minutes 17 ml of 1 N-hydrochloric acid is added, the methanol is removed by evaporation for the most part and the product which has separated out is filtered. By crystallization from methanol-ether there is obtained pure Z-Ser(But)-Ser(But)-Asn-Ala-OH of melting point 180°-181°.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | Z-Ser(But)Ser(But)-Asn-Ala-OMe | 3.54 g | N([C@@H](COC(C)(C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C30H47N5O10
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 34 ml | CO | CH4O
product | Z-Ser(But)-Ser(But)-Asn-Ala-OH | N([C@@H](COC(C)(C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C29H45N5O10
